US04045567
a solution of 26 gm of thiopropionamide in 100 cc of ethanol is mixed with a solution of 36.5 gm of ethyl 2-chloro-3-oxo-propionate in 50 cc of ethanol. The reaction mixture is left in contact overnight, then the alcohol is evaporated off. The residue is dissolved in ether, the ethereal phase is washed with an aqueous 20% sodium carbonate solution, then with water. The oil obtained is distilled and the fraction coming off at 80° C. to 90° C. under a pressure of 0.5 mm is recovered. This fraction is saponified with an alcoholic solution of potassium hydroxide, then acidified and recrystallized from toluene. 2-Ethyl-5-thiazolecarboxylic acid is obtained in the form of colorless crystals, soluble in ethanol and sodium hydroxide, insoluble in water, melting at 157° C.

reactant | thiopropionamide | 26 gm | C(CC)(=S)N | C3H7NS
reactant | ethyl 2-chloro-3-oxo-propionate | 36.5 gm | ClC(C(=O)OCC)C=O | C5H7ClO3
solvent | ethanol | 100 cc | C(C)O | C2H6O
solvent | ethanol | 50 cc | C(C)O | C2H6O
product | 2-Ethyl-5-thiazolecarboxylic acid | C(C)C=1SC(=CN1)C(=O)O | C6H7NO2S
